US06211215B1
A mixture of 4-chloromethyl-2-[(E)-2-phenylethenyl]oxazole (5.0 g), sodium acetate (7.48 g) and N,N-dimethylformamide (50 ml) was stirred at 90° C. for 4.5 hours. The reaction mixture was poured onto ice-water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water dried (MgSO4), and concentrated under reduced pressure. To the residue was added potassium carbonate (4.73 g), water (25 ml) and methanol (50 ml) and then the resultant was stirred for 2 hours at room temperature. The reaction mixture was concentrated, to which was added brine, and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated under reduced pressure to give 2-[(E)-2-phenylethenyl]-4-oxazolylmethanol (4.18 g, 91%). Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 94-95° C.

reactant | 4-chloromethyl-2-[(E)-2-phenylethenyl]oxazole | 5.0 g | ClCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C12H10ClNO
reactant | sodium acetate | 7.48 g | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-[(E)-2-phenylethenyl]-4-oxazolylmethanol | 4.18 g, 91% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)CO | C12H11NO2
